US06933386B2
A-1. 4-Chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester
A 10 L reactor was charged with 4-hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester (155.1 g, 0.7 mol) and toluene (2.7 L). Phosphorous oxychloride (128.8 g, 78 mL, 0.84 mol) was then added followed by the addition of diisopropylethylamine (94.2 g, 127 mL, 0.7 mol). The reaction mixture was stirred for 5 min at room temperature and then heated at reflux for 20 h. HPLC analysis indicated complete disappearance of starting material. The reaction mixture was then cooled to 0° C. and cold K2HPO4 solution (527 g in 2.4 L of water) was added at a rate to maintain the internal temperature of the reaction mixture below 5° C. The final pH of the mixture was 8. The mixture was then stirred at between 0° C. to 5° C. for 20 min and then at room temperature for 1 h. The organic phase was separated and washed with K2HPO4 solution (85 g in 405 mL of water) and water (345 mL) and then filtered and concentrated in vacuo until yellow solids began to precipitate. Dimethyl formamide (1 L) was added and the remaining toluene was removed in vacuo (bath temperature=38° C., pressure=9 Torr). After concentration, approximately 4% toluene was observable by HPLC.

reactant | 4-hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester | 0.7 mol, 155.1 g | C(C)OC(=O)C=1C(=C2C(=NC=NN2C1)O)C | C10H11N3O3
reactant | Phosphorous oxychloride | 0.84 mol, 78 mL, 128.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylethylamine | 0.7 mol, 127 mL, 94.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | K2HPO4 | 2.4 L, 527 g | OP(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 2.7 L | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC=NN2C1)Cl)C | C10H10ClN3O2
